US07772253B2
3-Methoxy-5-trifluoromethanesulfonyloxy-benzoic acid methyl ester
To a solution of 3-hydroxy-5-methoxy-benzoic acid methyl ester [CAS No. 19520-74-2] (0.930 g, 5.10 mmol) in 10 ml of CH2Cl2 was added at 0° C. 2.5 eq. of pyridine (1.01 g) followed by 1.2 eq. of trifluoromethanesulfonic anhydride (1.728 g), and the mixture kept for 0.25 h at 0° C. Warming to ambient temperature, pouring onto crashed ice/HCl, twofold extraction with AcOEt, washing with water and brine, drying over sodium sulfate, and evaporation of the solvents left 1.72 g of the title compound which was used in the next step without further purification.

reactant | 3-hydroxy-5-methoxy-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OC)O)=O | C9H10O4
reactant | pyridine | 1.01 g, 2.5 eq. | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.728 g, 1.2 eq. | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-Methoxy-5-trifluoromethanesulfonyloxy-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OS(=O)(=O)C(F)(F)F)OC)=O | C10H9F3O6S
